### PR TITLE
Adding monoid on mule

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

I noticed further simplifications on top of #700
CC @affeldt-aist

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`
  (do not edit former entries, only append new ones, be careful:
   merge and rebase have a tendency to mess up `CHANGELOG_UNRELEASED.md`)
- ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

**Comment by affeldt-aist** [comment]
Is it ok that this PR also modified `config.nix`?

**Comment by CohenCyril** [comment]
> Is it ok that this PR also modifies `config.nix`?

It's a fix to local setup for nix users, maybe I should separate the PR.... I dunno

File: theories/ereal.v [hunk 1]
```diff
@@ -1148,13 +1148,13 @@ Canonical dadde_monoid := Monoid.Law daddeA dadd0e dadde0.
...
-Proof. by move=> x y z; rewrite !dual_addeE !oppeK addeAC. Qed.
+Proof. exact: Monoid.mulmAC. Qed.
 
 Lemma daddeCA : left_commutative (S := \bar R) +%dE.
-Proof. by move=> x y z; rewrite !dual_addeE !oppeK addeCA. Qed.
+Proof. exact: Monoid.mulmCA. Qed.
 
 Lemma daddeACA : @interchange (\bar R) +%dE +%dE.
-Proof. by move=> x y z u; rewrite !dual_addeE !oppeK addeACA. Qed.
+Proof. exact: Monoid.mulmACA. Qed.
```
Comment (proux01) [inline theories/ereal.v:1157]: I would expect the same simplification for `addeAC`, `addeCA` and `addeACA`

**Review by proux01 — APPROVED** [review]
LGTM (the Nix changes looks ok by me)

File: theories/ereal.v (hunk 1 above)
Comment (CohenCyril) [reply theories/ereal.v:1157]: Which I did, right?

Comment (proux01) [reply theories/ereal.v:1157]: Indeed, my bad :(
Let's merge then.
